US03936444
35 G (0.28 mole) of caprolactim-methyl-ether were added dropwise over the course of 15 minutes at 5°C, while stirring and cooling, to a solution of 36 g (0.25 mole) of 3-chlorophenylhydrazine in 250 ml of glacial acetic acid; the red-brown clear solution was kept at 0° to 5°C for a further 2 hours and then for 2 hours at 20°C and excess glacial acetic acid was distilled off in a water-pump vacuum. On fractional distillation in vacuo of the residue which remained, 56 g (94.3% of theory) of caprolactam-(3-chlorophenylhydrazone) were obtained; it was a light viscous oil of boiling point 215° to 220°C/3 mmHg, which solidified to crystals.

reactant | caprolactim methyl-ether | 0.28 mole | C=1(CCCCCN1)O.COC
reactant | 3-chlorophenylhydrazine | 0.25 mole, 36 g | ClC=1C=C(C=CC1)NN | C6H7ClN2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | caprolactam-(3-chlorophenylhydrazone) | 56 g, 94.3% | ClC=1C=C(C=CC1)NN=C1CCCCCN1 | C12H16ClN3
